US05773470
2-Cyano-N-(3-methyl-4-nitrophenyl)acetamide (0.61 g; 2.8 mmol) is dissolved in tetrahydrofuran (30 ml) and sodium hydride (80% strength dispersion in oil; 0.21 g; 7 mmol) is added. The mixture is stirred at 25° C. for 15 minutes and 1-acetylimidazole (0.46 g; 4.2 mmol) is added dropwise over the course of 5 minutes and the mixture is stirred for a further 15 minutes. 2 ml of glacial acetic acid are added and the mixture is stirred at 25° C. for 1 hour and then poured into ice-cold water (100 ml). The pH of the solution is then adjusted to 1 using concentrated hydrochloric acid, and the precipitate is filtered, washed with water and brought to dryness under reduced pressure. N-(3-Methyl-4-nitrophenyl)-2-cyano-3-hydroxycrotonamide is thus obtained.

reactant | 2-Cyano-N-(3-methyl-4-nitrophenyl)acetamide | 2.8 mmol, 0.61 g | C(#N)CC(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C | C10H9N3O3
reactant | sodium hydride | 7 mmol, 0.21 g | [H-].[Na+]
reactant | 1-acetylimidazole | 4.2 mmol, 0.46 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-(3-Methyl-4-nitrophenyl)-2-cyano-3-hydroxycrotonamide | CC=1C=C(C=CC1[N+](=O)[O-])NC(\C(=C(\C)/O)\C#N)=O | C12H11N3O4
